US08124770B2
The amino precursors of ABQ-38 and ABQ-95, (E)-7-ethyl-2-(5-amino-2-chlorostyryl)benzimidazole IIv and (E)-5-methyl-2-(5-amino-2,4-dichlorostyryl)benzothiazole IId, respectively, were prepared by the reduction of the corresponding nitro derivatives with hydrazine in the presence of nickel boride in dry methanol, see FIG. 3. (E)-7-ethyl-2-(5-amino-2-chlorostyryl)benzimidazole IIv was photocyclized as described (BQS Method 1) to give 3-amino-7-ethylbenzimidazo[3,2-a]quinolinium chloride (ABQ-38) as a yellow solid: 1H NMR (500.13 MHz, DMSO-d6): δ ppm 9.05 (d, 1H, J=8.50 Hz), 8.88 (d, 1H, J=9.0 Hz), 8.56 (d, 1H, J=9.5 Hz, 8.27 (d, 1H, J=8.5 Hz), 8.23 (d, 1H, J=9.50 Hz), 7.90 (t, 1H, J=7.5 Hz), 7.81 (t, 1H, J=7.5 Hz), 7.43 (dd, 1H, J=8.5, 2.5), 7.27 (d, 1H, J=2.5 Hz), 4.83 (q, 2H, J=7.0 Hz), 1.48 (t, 3H, J=7.0 Hz); UV-vis (95% EtOH) λmax/nm (e): 409 (1410), 351 (8104), 336 (9815) and 271 (20866); HRMS calcd for C17H16N3 (compound without the chloride counter ion) 262.1, found by ESI at m/z 261.9. (E)-5-methyl-2-(5-amino-2,4-dichlorostyryl)benzothiazole IId was photocyclized as described (BQS Method 1) to give 3-amino-2-chloro-10-methylbenzothiazolo[3,2-a]quinolinium chloride (ABQ-95) as a yellow solid: 1H NMR (500.13 MHz, DMSO-d6): δ ppm 9.17 (s, 1H), 8.92 (s, 1H), 8.63(AB quartet, 2H, J=9.5 Hz), 8.48 (d, 1H, J=8.5 Hz), 7.76 (d, 1H, J=8.5 Hz), 7.53 (s, 1H), 6.50 (m, 2H), 2.70 (s, 3H); UV-vis (95% EtOH) λmax/nm (e): 429 (4417), 380 (10 387), 282 (22 568) and 214(2650); HRMS calcd for C16H12ClN2S 299.0 (without the chloride counter ion), found by ESI at m/z 299.0 M+.

reactant | (E)-7-ethyl-2-(5-amino-2-chlorostyryl)benzimidazole | C(C)C1=CC=CC2=C1N=C(N2)\C=C\C2=C(C=CC(=C2)N)Cl | C17H16ClN3
reactant | (E)-5-methyl-2-(5-amino-2,4-dichlorostyryl)benzothiazole | CC=1C=CC2=C(N=C(S2)\C=C\C2=C(C=C(C(=C2)N)Cl)Cl)C1 | C16H12Cl2N2S
reactant | hydrazine | NN | H4N2
solvent | methanol | CO | CH4O
catalyst | nickel boride | B#[Ni]
product | 3-amino-7-ethylbenzimidazo[3,2-a]quinolinium chloride | [Cl-].NC1=CC=2C=CC=3N(C2C=C1)C1=C([N+]3CC)C=CC=C1 | InChI=1S/C17H16N3.ClH/c1-2-19-15-5-3-4-6-16(15)20-14-9-8-13(18)11-12(14)7-10-17(19)20;/h3-11H,2,18H2,1H3;1H/q+1;/p-1
